US08378095B2
To a solution of 2-(2,6-difluorophenyl)-5-(4-hydroxyphenyl)oxazole-4-carboxamide (0.100 g, 0.316 mmol) in DMF (5 ml) were added potassium carbonate (0.220 g, 1.58 mmol) and 1,2-dichloroethane (0.50 ml, 6.32 mmol). The reaction was heated to 130° C. via microwave irradiation and held at that temperature for 1 hour. The reaction was then diluted with EtOAc, washed with water and brine and dried over Na2SO4 before being concentrated in vacuo. The resulting residue was purified by silica gel flash chromatography using 0-50% EtOAc in hexane as eluant to afford 5-(4-(2-chloroethoxy)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide (0.11 g, 0.29 mmol, 92%) as a white solid. LCMS (1) 2.25 min; m/z (ES+) 379/381.

reactant | 2-(2,6-difluorophenyl)-5-(4-hydroxyphenyl)oxazole-4-carboxamide | 0.316 mmol, 0.100 g | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)O | C16H10F2N2O3
reactant | potassium carbonate | 1.58 mmol, 0.220 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dichloroethane | 6.32 mmol, 0.50 ml | ClCCCl | C2H4Cl2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(4-(2-chloroethoxy)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide | 0.29 mmol, 0.11 g, 92% | ClCCOC1=CC=C(C=C1)C1=C(N=C(O1)C1=C(C=CC=C1F)F)C(=O)N | C18H13ClF2N2O3
